US09282743B2
Step 2: Preparation of 5-Methoxy-2-[2-(2,4,6-trimethyl-phenyl)-acetyl]-[1,2,5]triazepane-1-carboxylic acid ethyl ester (compound P3.1)
To a vigorously stirred suspension of N′-[2-(2,4,6-trimethyl-phenyl)-acetyl]-hydrazinecarboxylic acid ethyl ester (4.22 g, 15.96 mmol) in toluene (80 ml) was added aqueous sodium hydroxide (12 ml, 30% NaOH w/w in water) and tetra-butyl ammonium bromide (160 mg, 0.48 mmol) at room temperature, followed by methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-methoxy-amino]-ethyl ester (4.66 g, 16.00 mmol) dropwise over 15 minutes at 65° C. The reaction mixture was heated at 65° C. for 6.5 hours. After cooling, the layers were separated, the organic phase evaporated, the residue dissolved in ethyl acetate, washed with water, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (cyclohexane/ethyl acetate/dichloromethane 5:4:1). Yield: 2.6 g of 5-methoxy-2-[2-(2,4,6-trimethyl-phenyl)-acetyl]-[1,2,5]triazepane-1-carboxylic acid ethyl ester (compound P3.1) as a colorless oil.

reactant | N′-[2-(2,4,6-trimethyl-phenyl)-acetyl]-hydrazinecarboxylic acid ethyl ester | 15.96 mmol, 4.22 g | C(C)OC(=O)NNC(CC1=C(C=C(C=C1C)C)C)=O | C14H20N2O3
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | methanesulfonic acid 2-[(2-methanesulfonyloxy-ethyl)-methoxy-amino]-ethyl ester | 16.00 mmol, 4.66 g | CS(=O)(=O)OCCN(CCOS(=O)(=O)C)OC | C7H17NO7S2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-butyl ammonium bromide | 0.48 mmol, 160 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-Methoxy-2-[2-(2,4,6-trimethyl-phenyl)-acetyl]-[1,2,5]triazepane-1-carboxylic acid ethyl ester | C(C)OC(=O)N1N(CCN(CC1)OC)C(CC1=C(C=C(C=C1C)C)C)=O | C19H29N3O4
